### PR TITLE
chore(05TrivialCohomology): Refactor trivial cohomology

### PR DESCRIPTION
**Pull request by Whysoserioushah**

### CODE REVIEW

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean [hunk 1]
```diff
@@ -83,16 +117,27 @@ lemma d_comp_tateNorm (M : Rep R G) : (inhomogeneousChains M).d 1 0 ≫ tateNorm
...
-  d₀_comp := tateNorm_comp_d M
+  d₀ := ModuleCat.ofHom <| Finsupp.lsum R <| fun _ ↦ LinearMap.pi fun _ ↦ M.norm.hom
+  comp_d₀ := by
+    ext
+    simp [inhomogeneousChains.d_def, inhomogeneousChains.d, Finsupp.sum_add_index',
+      Finsupp.sum_neg_index, Pi.zero_apply (M := fun _ => M), Rep.norm]
+  d₀_comp := by
+    ext
+    simp [inhomogeneousCochains.d_def, inhomogeneousCochains.d,
+      Pi.zero_apply (M := fun _ => M), Rep.norm]
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:128]: What is the reason that this now looks much more complicated?

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean [hunk 2]
```diff
@@ -113,8 +158,18 @@ def tateComplex.normNatEnd : End (forget₂ (Rep R G) (ModuleCat R)) where
...
+      cochainsMap_f]
+    ext1
+    simp only [ModuleCat.hom_comp, ModuleCat.hom_ofHom]
+    ext f1 x g1
+    simp only [LinearMap.coe_comp, Finsupp.coe_lsum, Function.comp_apply, Finsupp.lsingle_apply,
+      Finsupp.lmapDomain_apply, Finsupp.mapDomain_single, Finsupp.mapRange.linearMap_apply,
+      Finsupp.mapRange_single, map_zero, Finsupp.sum_single_index, pi_apply, compLeft_apply,
+      funLeft_apply]
+    rw [← LinearMap.comp_apply, ← ModuleCat.hom_comp, tateComplex.norm_comm φ ]
+    simp
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:172]: Similarly here -- what is the reason that proofs are getting much worse?

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean [hunk 3]
```diff
@@ -229,55 +283,77 @@ def isoGroupHomology (n : ℕ) : (tateCohomology (-n - 2)) ≅ groupHomology.fun
...
+        ext1
+        simp only [ModuleCat.hom_comp, ModuleCat.hom_ofHom]
+        ext f1 m
+        simp only [Rep.norm, ModuleCat.hom_ofHom, LinearMap.coe_comp, LinearEquiv.coe_coe,
+          Function.comp_apply, Finsupp.lsingle_apply, Finsupp.LinearEquiv.finsuppUnique_apply,
+          LinearEquiv.funUnique_apply, Finsupp.coe_lsum, Function.eval, map_zero,
+          Finsupp.sum_single_index, pi_apply]
+        congr 1
+        simp only [Finsupp.single_apply, ite_eq_left_iff]
+        exact fun h ↦ False.elim <| h <| Unique.eq_default _)
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:350]: Similarly here.

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 4]
```diff
@@ -33,53 +33,140 @@ A representation `M : Rep R G` has trivial cohomology if the cohomology groups `
...
+
+noncomputable def res_iso_range_res (M : Rep R G) {H : Type} [Group H] (f : H →* G)
+    (n : ℕ) (hf : Function.Injective f) :
+    groupCohomology (M ↓ f.range.subtype) n ≅
+      groupCohomology (M ↓ f) n where
+  hom := groupCohomology.map f.rangeRestrict (𝟙 (M ↓ f)) _
+  inv := groupCohomology.map (MonoidHom.ofInjective hf).symm.toMonoidHom ⟨𝟙 M.V, by simp⟩ _
+  hom_inv_id := by
+    rw [← groupCohomology.map_comp]
+    erw [CategoryTheory.Functor.map_id, Category.id_comp] --andrew did this
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:74]: Andrew's got some explaining to do...

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 5]
```diff
@@ -33,53 +33,140 @@ A representation `M : Rep R G` has trivial cohomology if the cohomology groups `
...
+    rw [← groupCohomology.map_id]
+    exact groupCohomology.map_congr _ _ _ _ (by ext; simp) (by simp) n
+  inv_hom_id := by
+    rw [← groupCohomology.map_comp, ← groupCohomology.map_id]
+    refine groupCohomology.map_congr _ _ _ _ (by
+      ext x;
+      unfold MonoidHom.rangeRestrict
+      erw [(MonoidHom.ofInjective hf).symm_apply_apply, MonoidHom.id_apply]) (by simp) n
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:82]: Who did this??

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 6]
```diff
@@ -89,78 +176,147 @@ lemma trivialHomology_iff_res {M : Rep R G} :
...
+  simp [cochainsMap_f, Rep.norm, Representation.norm]
+  have := φ.comm
+  have (h : H) := ModuleCat.hom_ext_iff.1 (φ.comm (e.symm h))
+  simp only [Action.res_obj_V, ModuleCat.hom_comp, ρ_hom, Action.res_obj_ρ, MonoidHom.coe_comp,
+    MonoidHom.coe_coe, Function.comp_apply, MulEquiv.apply_symm_apply] at this
+  conv_lhs =>
+    enter [2]
+    intro h
+    rw[← LinearMap.comp_apply, ← this]
+  simp
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:204]: please no non-terminal simp, I have to maintain this repo

**Review by kbuzzard — COMMENTED** [review]
I read through all the code but I couldn't figure out what was going on in this PR, other than some new defs/theorems were added and some old proofs got worse. Can you write a proper description of what this PR is doing and explain why some proofs are much worse e.g. they have gone from just one simp call to 10 lines?

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 5 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:82]: We weren't paying too much attention but I'll try to fix it

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean (hunk 2 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:172]: this is probably not necessary I'll try to fix it

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 6 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:204]: sure!

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean (hunk 2 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:166]: golfed

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean (hunk 3 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean]: golfed :)

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 5 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:82]: I fixed it with a change... not sure if it's the best fix but it worked! :-)

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean [hunk 7]
```diff
@@ -83,16 +117,21 @@ lemma d_comp_tateNorm (M : Rep R G) : (inhomogeneousChains M).d 1 0 ≫ tateNorm
 @[simps]
 def tateComplexConnectData (M : Rep R G) :
     CochainComplex.ConnectData (inhomogeneousChains M) (inhomogeneousCochains M) where
-  d₀ := tateNorm M
-  comp_d₀ := d_comp_tateNorm M
-  d₀_comp := tateNorm_comp_d M
+  d₀ := ModuleCat.ofHom <| Finsupp.lsum R <| fun _ ↦ LinearMap.pi fun _ ↦ M.norm.hom
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:120]: I still don't really understand the reason for this change in the definition of `d_0`.
Does it make other things easier?

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean [hunk 8]
```diff
@@ -50,11 +55,40 @@ namespace groupCohomology
   of `Representation.norm`. -/
 def _root_.Rep.norm (M : Rep R G) : M.V ⟶ M.V := ModuleCat.ofHom M.ρ.norm
 
+variable [Fintype G] (A : Rep R G) in
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:58]: I noticed that the `Fintype` instance isn't used in the rest of the file.

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean [hunk 9]
```diff
@@ -1,12 +1,7 @@
-import ClassFieldTheory.Mathlib.Algebra.Category.ModuleCat.Basic
 import ClassFieldTheory.Mathlib.Algebra.Homology.Embedding.Connect
 import ClassFieldTheory.Mathlib.Algebra.Homology.ShortComplex.Basic
 import ClassFieldTheory.Mathlib.Algebra.Homology.ShortComplex.ShortExact
-import ClassFieldTheory.Mathlib.Algebra.Module.Equiv.Basic
-import Mathlib.CategoryTheory.Limits.Shapes.Countable
-import Mathlib.Data.ZMod.QuotientGroup
-import Mathlib.RepresentationTheory.Homological.GroupCohomology.LongExactSequence
-import Mathlib.RepresentationTheory.Homological.GroupHomology.LongExactSequence
+import Mathlib
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean]: fixed

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 10]
```diff
@@ -33,53 +33,134 @@ A representation `M : Rep R G` has trivial cohomology if the cohomology groups `
...
+  hom := groupCohomology.map f.rangeRestrict (𝟙 (M ↓ f)) _
+  inv := groupCohomology.map (MonoidHom.ofInjective hf).symm.toMonoidHom ⟨𝟙 M.V, by simp⟩ _
+  hom_inv_id := by
+    rw [← groupCohomology.map_comp, ← groupCohomology.map_id]
+    exact groupCohomology.map_congr _ _ _ _ (by ext; simp) (by simp) n
+  inv_hom_id := by
+    rw [← groupCohomology.map_comp, ← groupCohomology.map_id]
+    refine groupCohomology.map_congr _ _ _ _ (by
+      ext x;
+      change (MonoidHom.ofInjective hf).symm (MonoidHom.ofInjective hf _) = x
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:75]: Is it better to say `rw [MonoidHom.comp_apply]` instead of this `change`?

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean (hunk 8 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:59]: and after [#27362](https://github.com/leanprover-community/mathlib4/pull/27362) is merged we should remove everything we have now on `norm` and use the mathlib version instead (which is almost the same)

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 10 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean]: changed!

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 11]
```diff
@@ -33,53 +33,134 @@ A representation `M : Rep R G` has trivial cohomology if the cohomology groups `
 are zero for every subgroup `H` of `G` and every `n > 0`.
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:33]: line 5 can now be removed I guess.

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 12]
```diff
@@ -89,78 +170,147 @@ lemma trivialHomology_iff_res {M : Rep R G} :
...
-  · apply (tateCohomology n).mapIso
-    exact (res φ).mapIso f
-  exact (TrivialTateCohomology.isZero _ hφ).of_iso this
-
-lemma isZero_of_trivialTateCohomology [Finite G] [DecidableEq G] {M : Rep R G}
+    M.TrivialTateCohomology := ⟨fun H ↦ (TrivialTateCohomology.isZero _).of_iso <|
+    (tateCohomology _).mapIso <| (res H.subtype).mapIso f⟩
+
+--TODO : add simp lemma for Rep.norm.hom
+noncomputable abbrev _root_.TateCohomology.cochainsmap {G H : Type} [Group G] [Group H] [Fintype G]
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:181]: this still works with `Finite` instead of `Fintype`. Is there a reason why you are asking for a `Fintype`?

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 13]
```diff
@@ -33,53 +33,134 @@ A representation `M : Rep R G` has trivial cohomology if the cohomology groups `
...
+  hom_inv_id := by
+    rw [← groupHomology.map_comp]
+    erw [CategoryTheory.Functor.map_id, Category.comp_id]
+    rw [← groupHomology.map_id]
+    exact groupHomology.map_congr _ _ _ _ (by ext; simp) (by simp) n
+  inv_hom_id := by
+    rw [← groupHomology.map_comp, ← groupHomology.map_id]
+    refine groupHomology.map_congr _ _ _ _ (by
+      ext x;
+      unfold MonoidHom.rangeRestrict
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:143]: Nope, I'll remove it! :-)

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 14]
```diff
@@ -89,78 +170,147 @@ lemma trivialHomology_iff_res {M : Rep R G} :
...
-  exact (TrivialTateCohomology.isZero _ hφ).of_iso this
-
-lemma isZero_of_trivialTateCohomology [Finite G] [DecidableEq G] {M : Rep R G}
+    M.TrivialTateCohomology := ⟨fun H ↦ (TrivialTateCohomology.isZero _).of_iso <|
+    (tateCohomology _).mapIso <| (res H.subtype).mapIso f⟩
+
+--TODO : add simp lemma for Rep.norm.hom
+noncomputable abbrev _root_.TateCohomology.cochainsmap {G H : Type} [Group G] [Group H] [Fintype G]
+    [Fintype H] {M : Rep R G} {N : Rep R H} (e : G ≃* H)
+    (φ : M ⟶ (Action.res (ModuleCat R) e).obj N) :=
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:183]: the notation `N \down e` works here.

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 11 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:33]: removed

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:143]: reomoved

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 15]
```diff
@@ -89,78 +170,147 @@ lemma trivialHomology_iff_res {M : Rep R G} :
...
+  CochainComplex.ConnectData.map (tateComplexConnectData M) (tateComplexConnectData N)
+  (groupHomology.chainsMap e φ)
+  (groupCohomology.cochainsMap e.symm ⟨φ.hom, fun h ↦ by simpa using φ.comm (e.symm h)⟩) <| by
+  ext f0 (m : M) h0
+  simp [cochainsMap_f, Rep.norm, Representation.norm]
+  have := φ.comm
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:189]: line 190 can be removed.

Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:187]: removed

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 14 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:181]: the \down sign is the abbrev so they are defeq?

Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:181]: they are syntactically equal I think since \down is just a notation

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 12 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:179]: this might have gone too far I will split this into a different PR this PR will only be about the refactor (definitely not because I'm currently sitting next to a concerned member of our group :))

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 16]
```diff
@@ -89,78 +170,147 @@ lemma trivialHomology_iff_res {M : Rep R G} :
...
+    unfold TateCohomology.map TateCohomology.cochainsmap;
+    rw [← HomologicalComplex.homologyMap_comp, ← CochainComplex.ConnectData.map_comp]
+    conv_rhs => erw [← HomologicalComplex.homologyMap_id, ← CochainComplex.ConnectData.map_id]
+    congr
+    · rw [← groupHomology.chainsMap_comp, ← groupHomology.chainsMap_id]
+      exact groupHomology.chainsMap_congr _ _ _ _ (by simp) (by simp)
+    · rw [← groupCohomology.cochainsMap_comp, ← groupCohomology.cochainsMap_id]
+      exact groupCohomology.cochainsMap_congr _ _ _ _ (by simp) (by simp)
+  inv_hom_id := by
+    unfold TateCohomology.map TateCohomology.cochainsmap;
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:242]: what is the reason for the `unfold` here? it doesn't seem to make any difference.

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 17]
```diff
@@ -89,78 +170,147 @@ lemma trivialHomology_iff_res {M : Rep R G} :
...
     | 0 =>
       aesop
     | .negSucc 0 =>
       aesop
 
 instance [Subsingleton G] {M : Rep R G} : M.TrivialCohomology where
-  isZero H _ _ hf _ := by
-    letI : Subsingleton H := Function.Injective.subsingleton hf
+  isZero H n := by
+    letI : Subsingleton H := Function.Injective.subsingleton H.subtype_injective
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:295]: Why is line 302 needed? Does it speed up performance?

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 16 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean]: these are just there such that I could see more clearly, removed

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 18]
```diff
@@ -89,78 +170,147 @@ lemma trivialHomology_iff_res {M : Rep R G} :
...
     apply isZero_groupCohomology_succ_of_subsingleton
 
 instance [Subsingleton G] {M : Rep R G} : M.TrivialHomology where
-  isZero H _ _ hf _ := by
-    letI : Subsingleton H := Function.Injective.subsingleton hf
+  isZero H n := by
+    letI : Subsingleton H := Function.Injective.subsingleton H.subtype_injective
```
Comment (rmhi) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:300]: similar question to above.

Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean]: these are not needed anymore! (it was an old proof)

Comment (Whysoserioushah) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean]: deleted

File: ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean (hunk 8 above)
Comment (rmhi) [reply ClassFieldTheory/GroupCohomology/04_TateCohomology_def.lean:59]: ok, but in this file that line does nothing at the moment.
Do you want to change line 22 instead?

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean (hunk 14 above)
Comment (rmhi) [reply ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean]: agreed, `\down` is just notation, but it makes it a lot easier for me to read.
